US06039783
Potassium Iodide-Sodium Thiosulfate.
This potassium iodide-sodium thiosulfate titration of hydrogen peroxide can be used in the presence of oxidizable organic materials. Typically, 0.1-N sodium thiosulfate is used to back titrate iodine produced by the oxidation of potassium iodide by the hydrogen peroxide sample. The hydrogen peroxide sample is added to approximately 100 mL of water that contains 10 mL of a 1:4 (volume/volume) sulfuric acid solution. Next, 10 mL of 20-weight-percent potassium iodide, and 3 to 5 drops of ammonium molydate are added to the hydrogen peroxide sample. The resulting solution is titrated with 0.1-N sodium thiosulfate to a straw yellow color, then 5 to 10 mL of starch indicator solution is added and the titration is continued to a clear end point.

reactant | hydrogen peroxide | OO | H2O2
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | potassium iodide | [I-].[K+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | ammonium | 3 to 5 drops | [NH4+]
solvent | water | approximately 100 mL | O | H2O
product | Potassium Iodide Sodium Thiosulfate | [I-].[K+].S(=S)(=O)([O-])[O-].[Na+].[Na+] | InChI=1S/HI.K.2Na.H2O3S2/c;;;;1-5(2,3)4/h1H;;;;(H2,1,2,3,4)/q;3*+1;/p-3
